US06399629B1
(C) 4-(4-Benzyloxyphenoxy)piperidine
Trifluoroacetic acid (6 mL) was added to a solution of N-tert-butoxycarbonyl-4-(4-benzyloxyphenoxy)piperidine (B, 473 mg) in dichloromethane (12 mL) at room temperature. After stirring at room temperature for 20 hr, the reaction was quenched with saturated sodium hydrogen carbonate. The resulting mixture was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo to give the titled compound (345 mg) as a yellow brown solid, which was used in the next reaction without further purification.

reactant | Trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-tert-butoxycarbonyl-4-(4-benzyloxyphenoxy)piperidine | 473 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H29NO4
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 4-(4-Benzyloxyphenoxy)piperidine | 345 mg | C(C1=CC=CC=C1)OC1=CC=C(OC2CCNCC2)C=C1 | C18H21NO2
